US04416683
A solution of 1.85 g of 2-amino-5-(1- ethyl-1-methylproyl)-1,3,4-thiadiazole and 2.21 g of 2,6-diethylbenzoyl chloride in 50 ml of toluene was heated at reflux for sixteen hours and then cooled and the solvent was removed by evaporation under reduced pressure to provide a solid residue. The solid was crystallized from 2B ethanol to give 1.25 g of N-[5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazol-2-yl]-2,6-diethylbenzamide.

reactant | 2-amino-5-(1- ethyl-1-methylproyl)-1,3,4-thiadiazole | 1.85 g | NC=1SC(=NN1)C(CC)(C)CC | C8H15N3S
reactant | 2,6-diethylbenzoyl chloride | 2.21 g | C(C)C1=C(C(=O)Cl)C(=CC=C1)CC | C11H13ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazol-2-yl]-2,6-diethylbenzamide | 1.25 g, Yield 36% | C(C)C(CC)(C)C1=NN=C(S1)NC(C1=C(C=CC=C1CC)CC)=O | C19H27N3OS
